US04062977
A solution of 35.2 g (0.12 mole) methyl-α-(3,4,5-trichlorophenoxy)-α-methoxyacetate in 50 ml ethanol was added slowly to a solution of 9.2 g (0.14 mole) 85% KOH in 150 ml 2B ethanol. The mixture was heated at 45° C for one-half hour, then cooled to room temperature and poured into 300 ml H2O. The pH of the resulting mixture was adjusted to 2 with dilute HCl. An oil separated which was removed by two 150 ml extractions with chloroform. The chloroform extracts were combined, washed with three 150 ml portions of water, and dried over magnesium sulfate. Removal of the solvent in vacuum left 22.9 g (66.8% crude yield) of a solid which was recrystallized from cyclohexane to give α-(3,4,5-trichlorophenoxy)-α-methoxyacetic acid, m.p. 101°-104° C, characterized by infrared spectroscopy. 20.0 g (0.07 mole) of the acid dissolved in 25 ml tetrahydrofuran was added dropwise to 1.9 g (0.08 mole) sodium hydride in 75 ml tetrahydrofuran. One half hour after addition was complete, the solution was evaporated to leave the sodium salt. This was added by portions to a solution of 8.9 g (0.07 mole) oxalyl chloride in 150 ml benzene to give 15.7 g (73.8% yield) of an oil, α-(3,4,5-trichlorophenoxy)-α-methoxyacetyl chloride. Due to its air sensitivity, 5.2 g (0.02 mole) of this compound was immediately dissolved in 25 ml benzene and added slowly to a solution of 1.7 g (0.02 mole) dimethylpropargylamine and 2.1 g (0.02 mole) triethylamine in 100 ml benzene, with stirring while the solution was being cooled to 10° C in an ice bath. After addition was complete the cold bath was removed and the mixture was allowed to come to room temperature. The mixture was then washed first with 100 ml water, followed by two 100 ml portions of 5% sodium carbonate solution. The organic phase was dried over magnesium sulfate, and the solvent was evaporated to give 5.4 g (77.1% yield) of a solid, which was recrystallized from hexane and characterized by infrared and NMR spectroscopy as in N-dimethylpropynyl-α-methoxy-α-(3,4,5-trichlorophenoxy)acetamide, m.p. 76°-80° C.

reactant | methyl-α-(3,4,5-trichlorophenoxy)-α-methoxyacetate | 0.12 mole, 35.2 g | COC(C(OC)OC1=CC(=C(C(=C1)Cl)Cl)Cl)=O | C10H9Cl3O4
reactant | KOH | 0.14 mole, 9.2 g | [OH-].[K+]
reactant | H2O | 300 ml | O | H2O
reactant | HCl | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | α-(3,4,5-trichlorophenoxy)-α-methoxyacetic acid | ClC=1C=C(OC(C(=O)O)OC)C=C(C1Cl)Cl | C9H7Cl3O4
